US06353015B1
Butyric anhydride (0.2 ml, 1.2 mmol) was added dropwise at room temperature to a well-stirred mixture of 5-benzyloxytryptamine hydrochloride (0.3 g, 1 mmol), Et3N (0.35 ml, 2.5 mmol) and CH2Cl2 (3 ml). After stirring for 40 h at 30-35° C. the reaction mixture was washed with water (2×5 ml), 5% solution of NaHCO3 (2×10 ml), 1% solution of HCl (5 ml) and then saturated solution of NaCl (10 ml). After drying over Na2SO4, the solvent was evaporated. Recrystallization of residue from benzene-heptane gave a yield of 0.25 g (74%) of N-[2-(5-benzyloxyindol-3-yl)ethyl]butanamide: mp 112-114° C. 1H NMR(CDCl3, ppm, δ): 0.90(3H, t, CH2CH3, J=8 Hz), 1.39(2H, m CH2CH2 CH3), 2.07(2H, t, CH2CH2 CH3, J=8 Hz), 2.92(2H, t, β-CH2, J=7 Hz), 3.56 (2H, q, α-CH2, J=6.5 Hz), 5.05(2H, s, CH2-O); 5.63(1H, bs, NH), 6.90-7.00(2H, m, 2- and 6-H), 7.10(1H, d, 4-H, J4-6=2 Hz), 7.20-7.48(6H, m, 7-H and Ph), 8.24(1H, bs, 1-H). Found, %: C 75.23; H 6.95; N 8.37. C21H24N2O2. Calc., %: C 75.0; H 7.14; N 8.33%.

reactant | Butyric anhydride | 1.2 mmol, 0.2 ml | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | 5-benzyloxytryptamine hydrochloride | 1 mmol, 0.3 g | Cl.C(C1=CC=CC=C1)OC1=CC=C2NC=C(CCN)C2=C1
reactant | Et3N | 2.5 mmol, 0.35 ml | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
product | N-[2-(5-benzyloxyindol-3-yl)ethyl]butanamide | yield of 0.25 g, 74% | C(C1=CC=CC=C1)OC=1C=C2C(=CNC2=CC1)CCNC(CCC)=O | C21H24N2O2
